US08466186B2
(d) N-(3-Isothiocyanato-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide
A mixture of N-(3-amino-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide (200 mg, 0.69 mmol), TCDI (133 mg, 0.746 mmol) and MeCN (3 mL) was refluxed for 1 h. Concentration and purification by column chromatography gave the sub-title compound.

reactant | N-(3-amino-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | 0.69 mmol, 200 mg | NC=1C=C(CNC(C(C)(C)C)=O)C=CC1OC(F)(F)F | C13H17F3N2O2
reactant | TCDI | 0.746 mmol, 133 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | MeCN | 3 mL | CC#N | C2H3N
product | N-(3-Isothiocyanato-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | N(=C=S)C=1C=C(CNC(C(C)(C)C)=O)C=CC1OC(F)(F)F | C14H15F3N2O2S
